US05116862
2-(But-3-ynylthio)acetic acid was prepared from thioglycollic acid and but-3-ynyl methanesulphonate using the methodology described in stage (i) of Example XIII.

reactant | thioglycollic acid | C(C(=O)O)S | C2H4O2S
reactant | but-3-ynyl methanesulphonate | CS(=O)(=O)OCCC#C | C5H8O3S
product | 2-(But-3-ynylthio)acetic acid | C(CC#C)SCC(=O)O | C6H8O2S
